US09227970B2
b) N*2*,N*2*-Diethyl-[1,2,4]triazolo[1,5-a]pyridine-2,6-diamine
Using (6-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-diethyl-amine, this compound was prepared following the same methods as for the synthesis of 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine. Brown solid (500 mg, 66%). MS: m/z=206 (M+H+).

reactant | (6-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-diethyl-amine | BrC=1C=CC=2N(C1)N=C(N2)N(CC)CC | C10H13BrN4
reactant | 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine | N1(CCOCC1)C1=NN2C(C=CC(=C2)N)=N1 | C10H13N5O
product | N*2*,N*2*-Diethyl-[1,2,4]triazolo[1,5-a]pyridine-2,6-diamine | C(C)N(C1=NN2C(C=CC(=C2)N)=N1)CC | C10H15N5
